US06476235B2
A suitable nitrogen inerted reactor is charged with KOH (110.0 mmol) and water (300 mL). To this rapidly stirring solution is added the crude Step 6 solution of (5R)-7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoic acid, methyl ester (ca. 100 mmol/>98% ee) in MeOH (250 mL). The mixture is heated under a nitrogen atmosphere to an internal temperature of ca. 85° C. During this time, MeOH is removed via distillation. The resulting reaction mixture is allowed to cool to 45° C., where it is washed with MtBE (2×150 mL). The MtBE phases are separated and discarded. To the 45° C. aqueous phase is added toluene (125 mL), followed by a slow addition of 6N HCl (20 mL). The two-phase mixture is stirred for 10 minutes, and the layers are separated. The aqueous phase is extracted with a second portion of toluene (125 mL) and discarded. The combined organics are heated to reflux under a nitrogen atmosphere. During this time, 130 mL of distillate is collected and discarded. The resulting solution is cooled to ca. 60° C., where NEt3 (140 mmol), DMAP (2.0 mmol) and Ac2O (70.0 mmol) are added successively at such a rate as to maintain an internal reaction temperature of 55° C. to 65° C. This solution is stirred for ca. 1.5 hrs at 60° C. The mixture is cooled to 50° C., where 1N HCl (100 mL) is added slowly. The two-phase mixture is stirred for 10 minutes, the phases are separated, and the aqueous phase discarded. The organic phase is washed with second portions of 1N HCl (100 mL) and water (100 mL) while maintaining a temperature of 45° C. to 55° C. The toluene solution is diluted with Bu2O (200 mL) and the resulting solution is slowly cooled to 0° C. with continuous agitation. The resulting solid is collected on a filter funnel and dried under vacuum to provide 5-(4-fluorophenyl)-2-isopropyl-1-[2-((S)-6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-4-phenyl-1H-pyrrole-3-carboxylic acid phenylamide as a white to off-white solid (34.4 g). This material is carried on to subsequent steps without further purification, or optionally, it can be re-precipitated from IPA/H2O.

reactant | KOH | 110.0 mmol | [OH-].[K+]
reactant | (5R)-7-[2-(4-fluorophenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoic acid, methyl ester | ca. 100 mmol | FC1=CC=C(C=C1)C=1N(C(=C(C1C1=CC=CC=C1)C(NC1=CC=CC=C1)=O)C(C)C)CC[C@H](CC(CC(=O)OC)O)O | C34H37FN2O5
reactant | NEt3 | 140 mmol | CCN(CC)CC | C6H15N
reactant | Ac2O | 70.0 mmol | CC(=O)OC(=O)C | C4H6O3
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | MeOH | 250 mL | CO | CH4O
catalyst | DMAP | 2.0 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | 300 mL | O | H2O
product | 5-(4-fluorophenyl)-2-isopropyl-1-[2-((S)-6-oxo-3,6-dihydro-2H-pyran-2-yl)-ethyl]-4-phenyl-1H-pyrrole-3-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)C1=C(N(C(=C1C1=CC=CC=C1)C1=CC=C(C=C1)F)CC[C@H]1OC(C=CC1)=O)C(C)C | C33H31FN2O3
